US05023273
(1S,5R,6R,7R)-6-[(E)-(3S,4S)-2-bromo-3-hydroxy-4-methyl-non-1-en-6-inyl]-7-hydroxy-2-oxa-bicyclo-[3.3.0]octan-3-one
3.12 g of (1S,5R,6R,7R)-6-[(E)-(3S,4S)-2-bromo-3-hydroxy-4-methyl-non-1-en-6-inyl]-7-benzoyloxy-2-oxa-bicyclo[3.3.0]octan-3-one was dissolved in 18 ml of p.A. methanol, mixed with 290 mg of a finely powdered potassium carbonate and stirred for 3 h at 25° C. It was adjusted to pH 7 by addition of a 50% hydrochloric acid and concentrated by evaporation in a water-jet vacuum at 30° C. The residue was taken up in methylene chloride, filtered over magnesium sulfate and Celite, again concentrated by evaporation in a water-jet vacuum and chromatographed under pressure on about 200 ml of fine silica gel using a gradient of hexane/ethyl acetate. 2.00 g (82%) of the title compound was isolated as colorless oil.

reactant | (1S,5R,6R,7R)-6-[(E)-(3S,4S)-2-bromo-3-hydroxy-4-methyl-non-1-en-6-inyl]-7-benzoyloxy-2-oxa-bicyclo[3.3.0]octan-3-one | 3.12 g | Br/C(=C/[C@H]1[C@H]2CC(O[C@H]2C[C@H]1OC(C1=CC=CC=C1)=O)=O)/[C@H]([C@H](CC#CCC)C)O | C24H27BrO5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | (1S,5R,6R,7R)-6-[(E)-(3S,4S)-2-bromo-3-hydroxy-4-methyl-non-1-en-6-inyl]-7-hydroxy-2-oxa-bicyclo-[3.3.0]octan-3-one | 2.00 g, 82% | Br/C(=C/[C@H]1[C@H]2CC(O[C@H]2C[C@H]1O)=O)/[C@H]([C@H](CC#CCC)C)O | C17H23BrO4
